US08703767B2
As an example, N-(3-(2-((4-(3-fluoro-4-methylpiperazin-1-yl)phenyl)amino)-5-((3-fluorophenyl)amino)pyrimidin-4-yl)phenyl)acrylamide can be prepared according to Route I. Beginning with 2,4-dichloro-N-(3-fluorophenyl)pyrimidin-5-amine, a palladium catalyzed coupling reaction with (3-acrylamidophenyl)boronic acid provides N-(3-(2-chloro-5-((3-fluorophenyl)amino)pyrimidin-4-yl)phenyl)acrylamide under mild conditions. Reaction of this product with 4-(3-fluoro-4-methylpiperazin-1-yl)aniline under palladium catalyzed aminolysis conditions yields N-(3-(2-((4-(3-fluoro-4-methylpiperazin-1-yl)phenyl)amino)-5-((3-fluorophenyl)amino)pyrimidin-4-yl)phenyl)acrylamide.

reactant | N-(3-(2-((4-(3-fluoro-4-methylpiperazin-1-yl)phenyl)amino)-5-((3-fluorophenyl)amino)pyrimidin-4-yl)phenyl)acrylamide | FC1CN(CCN1C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)C=1C=C(C=CC1)NC(C=C)=O)NC1=CC(=CC=C1)F | C30H29F2N7O
reactant | 2,4-dichloro-N-(3-fluorophenyl)pyrimidin-5-amine | ClC1=NC=C(C(=N1)Cl)NC1=CC(=CC=C1)F | C10H6Cl2FN3
reactant | (3-acrylamidophenyl)boronic acid | C(C=C)(=O)NC=1C=C(C=CC1)B(O)O | C9H10BNO3
catalyst | palladium | [Pd] | Pd
product | N-(3-(2-chloro-5-((3-fluorophenyl)amino)pyrimidin-4-yl)phenyl)acrylamide | ClC1=NC=C(C(=N1)C=1C=C(C=CC1)NC(C=C)=O)NC1=CC(=CC=C1)F | C19H14ClFN4O
